Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
phenobarbital / Zonegran / Demerol
 
Attending: ___.
 
Chief Complaint:
Pelvic pain, limp on R
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with severe
developmental delay, nonverbal, history of seizures, presents as
a transfer from ___ for orthopedics evaluation. This
morning he began having difficulty walking with apparent limp. 
No
injuries or trauma reported by group home staff. The patient
previously has had unexplained injuries including a broken leg,
gash in his leg and gash over the eye. All of these incidents
were reported to the ___. The patient initially went to
___ where CT scan showed comminuted fracture of the right
ilium. At ___ initial labs showed H/H 13.5/40.2 which trended
to 11.1/34 after fluids. Patient transiently soft blood pressure
in the high ___, responded to single bolus of saline 500 mL. He
also had a fever at ___. 

In the ED, initial VS were: 99.2F, HR 99, 125/77, RR 20, 96% on
RA

Exam notable for: Hematoma and bruising on the right hip and
bilateral elbows. Pain with right straight leg raise. 

Labs showed:
-Negative flu 
-Unremarkable BMP except for Cl 109
-CK 122
-WBC 6.8, Hb 11.1, Platelets 203
-INR 1.2
-Urinalysis - bland 

Imaging showed: CXR: Lung volumes still remain quite low.
Heterogeneous opacification at the lung bases, particularly the
right, could be due to pneumonia, especially aspiration. Upper
lungs are clear. No pleural effusion. 

Consults: 
-Ortho: Injury is closed; right lower extremity is
neurovascularly intact. Follow up in ___ clinic in 2
weeks. Ok for activity as tolerated.  Secondary survey negative
for pain elsewhere when palpated throughout his extremities and
down spine. 
-SW: Filed ___ report for abuse/neglect of a disabled person. 
-___: Recommended d/c to rehab. 
-CM: Multiple rehab referrals placed with no rehab bed offered 
as
of 540pm. 

Patient received:
-Home medications
-Ceftriaxone, azithromycin, flagyl 

Transfer VS were: 98.1F (Tmax 100.6), HR 99, BP 110/80, RR 18,
99% on RA

On arrival to the floor, patient unable to provide further
history but mother at bedside. She does report that the patient
can become aggressive (biting, hitting) with over stimulation.
She says he has a high tolerance for pain and does want him
getting anything more than Tylenol for now. She is unaware of 
any
fevers at the group home. Denies recent cough or difficulty
breathing. 

 
Past Medical History:
1. Intellectual disability, non-verbal 
2. Asthma 
3. Constipation 
4. Dysphagia (on regular diet with thin liquids) 
5. Epilepsy / Myoclonic seizure disorder
6. Osteoporosis 
7. Mood disorder with aggression and psychosis 
 
Social History:
___
Family History:
Father died from complications of alcoholism,
also with history of HTN and bladder cancer. Mother with basal
cell carcinoma. Brother is healthy. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.1F, 116/91, RR91, RR 20, 95%RA 
GENERAL: NAD, mother holding arms to prevent patient from 
hitting
during exam 
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no edema, cries in pain with straight leg raise on
the right, hematoma on right hip

DISCHARGE PHYSICAL EXAM:
GENERAL: NAD, caregiver holding arms to prevent patient from
hitting during exam. Patient smiling and appeared very
comfortable.
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no edema, hematoma on right hip improving.

 
Pertinent Results:
ADMISSION LABS: 

___ 06:01PM BLOOD WBC-6.8 RBC-3.47* Hgb-11.1* Hct-34.3* 
MCV-99* MCH-32.0 MCHC-32.4 RDW-12.8 RDWSD-45.8 Plt ___
___ 06:01PM BLOOD ___ PTT-28.6 ___
___ 06:01PM BLOOD Glucose-82 UreaN-11 Creat-0.8 Na-145 
K-4.0 Cl-109* HCO3-25 AnGap-11
___ 03:40AM BLOOD Calcium-8.9 Phos-4.5 Mg-2.5

DISCHARGE LABS: None

IMAGING: 
Pelvic X-ray: Study is read in conjunction with pelvis CT 
___. 
There has been no change in minimal displacement of the 
vertically oriented fracture of the lateral right iliac wing.  
Pelvis and hips are otherwise intact. 

 
Brief Hospital Course:
SUMMARY:
___ with severe developmental delay, nonverbal, history of 
seizures, presents with limping and found to have a fracture of 
the right ilium. No report of fall but has history of them due 
to unsteady gait.

ACUTE ISSUES:
===============
#Hip hematoma/Non-displaced fracture of the right ilium:
Ortho consult decided to non-surgically treat the patient with 
pain management and physical therapy. There was an unknown 
source of trauma however patient has had other injuries in the 
past at group home that
were unexplained, possibly secondary to longstanding spastic 
gait
and impulsivity. Group home stated he is unsteady on feet at 
baseline
and has not had any witnessed syncopal episodes. Pelvic x-rays
showed no interval change from prior CT showing minimal
displacement of fracture. Hematoma was improving on discharge. 
He will follow up at the ___ on ___. He was 
discharged to group home after being cleared by physical 
therapy.

#Hypernatremia:
He was intermittently hypernatremic in the setting of poor 
intake of water. He was able to maintain himself without use of 
IV fluids and encouraged to drink more water.

#Fever:
Previously had low grade fevers and had no clear localizing
source of infection with urinalysis and culture and flu both 
negative. Chest x-ray did show heterogeneous opacification at 
the lung bases, particularly the right was concerning for 
aspiration pneumonia, but had no cough and hypoxia and was 
monitored throughout his admission during which he remained well 
clinically and hemodynamically stable. 

CHRONIC ISSUES:
===============
#Seizure disorder
Continued on home keppra and LevoCARNitine 

#Aggression 
Continued on home Fluvoxamine and ClonazePAM, which was recently 
uptitrated to TID)
-Nuedexta is NF, mother does not have medications here in the
hospital but will ask her to bring it 

#Osteoporosis
Continued on weekly Alendronate, Vit D, and Calcium Carbonate 
while he was in house.

#Constipation
Continued home docusate. 

#Asthma
Continued home Montelukast. 

MEDICATION CHANGES: NONE

TRANSITIONAL ISSUES:
[] Ensure patient following orthopedics recommendations 
(follow-up appointment on ___
[] Please get BMP at first follow up: Monitor his Na as he 
tended to be mildly hypernatremic while he was inpatient, 
encourage good PO water intake
[] Follow-up on pain/mobility at group home: Ensure he walks 
with one to one assistance as he has required while in patient
[] OK to return to adult day care program when able to walk on 
own without assistance
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QMON 
2. ClonazePAM 1 mg PO TID 
3. Fluvoxamine Maleate 100 mg PO TID 
4. Nuedexta (dextromethorphan-quinidine) ___ mg oral TID 
5. Boost (food supplemt, lactose-reduced) 0.04 gram- 1 kcal/mL 
oral DAILY 
6. Calcium Carbonate 600 mg PO BID 
7. LevoCARNitine 200 mg PO TID 
8. Docusate Sodium 100 mg PO BID 
9. LevETIRAcetam 1500 mg PO BID 
10. Multivitamins 1 TAB PO DAILY 
11. Montelukast 10 mg PO DAILY 
12. Vitamin D 400 UNIT PO DAILY 
13. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Alendronate Sodium 70 mg PO QMON  
3.  Boost (food supplemt, lactose-reduced) 0.04 gram- 1 kcal/mL 
oral DAILY  
4.  Calcium Carbonate 600 mg PO BID  
5.  ClonazePAM 1 mg PO TID  
6.  Docusate Sodium 100 mg PO BID  
7.  Fluvoxamine Maleate 100 mg PO TID  
8.  LevETIRAcetam 1500 mg PO BID  
9.  LevoCARNitine 200 mg PO TID  
10.  Montelukast 10 mg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Nuedexta (dextromethorphan-quinidine) ___ mg oral TID  
13.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Non-displaced fracture of the Right Ilium
Hypernatremia

SECONDARY DIAGNOSES
Seizure disorder
Osteoporosis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for a fall and were found to have a fracture 
in your right hip.
 
What was done for me while I was in the hospital?  
- You were treated medically for your fracture with pain 
management and underwent physical therapy to help you regain 
your mobility.
- We continued your home medications.

What should I do when I leave the hospital?  
- Attend all your follow-up appointments and take all of your 
medications as prescribed.
- Follow-up at the orthopedics clinic as scheduled below.
- Continue to walk with assistance as much as you can to help 
the healing process.
 
Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___